US06943180B2
N-Acetyl-2-ethoxycarbonyl-3,3-dimethylproline, ethyl ester (6.4 g, 38%) was prepared from 3-methyl-2-butenal (Aldrich, 5.0 g, 59 mmol) and diethyl acetamidomalonate (Aldrich, 12 g, 54 mmol) by the procedure described by Chung et al (J. Org. Chem. 1990, 55, 270).

reactant | 3-methyl-2-butenal | 59 mmol, 5.0 g | CC(=CC=O)C | C5H8O
reactant | diethyl acetamidomalonate | 54 mmol, 12 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
product | N-Acetyl-2-ethoxycarbonyl-3,3-dimethylproline, ethyl ester | 6.4 g, 38% | C(C)(=O)N1C(C(=O)OCC)(C(CC1)(C)C)C(=O)OCC | C14H23NO5
